US07829560B2
N-(4-{[2-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide (Compound B320).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 1,4-dioxa-8-aza-spiro[4.5]decane according to conditions described in general procedure C. Mp: 115-117° C.; 1H NMR (400 MHz, CDCl3) δ 1.64 (t, J=5.0 Hz, 4 H), 3.26 (t, J=4.3 Hz, 4 H), 3.77 (s, 4 H), 3.88 (t, J=4.7 Hz, 4 H), 3.96 (s, 4 H), 5.98-5.99 (m, 1H), 6.77 (d, J=11.7 Hz, 1 H), 7.07 (d, J=7.8 Hz, 1 H), 7.32-7.34 (m, 2 H), 7.50-7.60 (m, 3 H), 7.90 (d, J=8.2 Hz, 1 H), 8.00 (d, J=8.6 Hz, 1H), 8.10 (s, 2 H), 8.15-8.17 (m, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
product | N-(4-{[2-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide | O1CCOC12CCN(CC2)C2=NC=CC(=N2)OC2=CC=C(C1=CC=CC=C21)NC(C2=CC(=CC(=C2)N2CCOCC2)F)=O | C32H32FN5O5
